### ISSUE TITLE
calc tactic inside induction case doesn't work

### ISSUE THREAD

**Issue by fgdorais** [leanprover/lean4#1372]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

This works as expected:
```lean
example (x₁ x₂ y₁ y₂ : Nat) : (x₁ + x₂) + (y₁ + y₂) = (x₁ + y₁) + (x₂ + y₂) := by
  calc (x₁ + x₂) + (y₁ + y₂)
      = x₁ + (x₂ + (y₁ + y₂)) := by rw [Nat.add_assoc]
    _ = x₁ + (y₁ + (x₂ + y₂)) := by rw [Nat.add_left_comm x₂ y₁ y₂]
    _ = (x₁ + y₁) + (x₂ + y₂) := by rw [Nat.add_assoc]
```

This gives many errors as indicated:
```lean
example (n x₁ x₂ y₁ y₂ : Nat) : n = 0 → (x₁ + x₂) + (y₁ + y₂) = (x₁ + y₁) + (x₂ + y₂) := by
  intro h
  induction n with
  | zero => -- error: unsolved goals ...
    calc (x₁ + x₂) + (y₁ + y₂)
       = x₁ + (x₂ + (y₁ + y₂)) := by rw [Nat.add_assoc] -- error: no goals to be solved
     _ = x₁ + (y₁ + (x₂ + y₂)) := by rw [Nat.add_left_comm x₂ y₁ y₂] -- error: no goals to be solved
     _ = (x₁ + y₁) + (x₂ + y₂) := by rw [Nat.add_assoc] -- error: no goals to be solved
  | succ _ _ => contradiction
```

### Versions

`Lean (version 4.0.0-nightly-2022-07-26, commit 3896244c5500, Release)`
